### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Grothendieck): transport; pre preserves equivalences of categories

### PR DESCRIPTION
**Pull request by datokrat**
This change proves that `Grothendieck.pre F G` is an equivalence if `G` is an equivalence. An essential ingredient in the proof is the `transport` construction: Given a morphism in the base category, `transport` yields a map between fibers of the Grothendieck construction.

This PR is part of the effort to prove the Freyd-Mitchell embedding theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 1]
```diff
@@ -369,6 +417,84 @@ def pre (G : D ⥤ C) : Grothendieck (G ⋙ F) ⥤ Grothendieck F where
...
+protected def preUnitIso (G : D ≌ C) :
+    map (whiskerRight G.unitInv _) ≅ pre (G.functor ⋙ F) (G.functor ⋙ G.inverse) :=
+  preNatIso _ G.unitIso.symm |>.symm
+
+/--
+Given a functor `F : C ⥤ Cat` and an equivalence of categories `G : D ≌ C`, the functor
+`pre F G.functor` is an equivalence between `Grothendieck (G.functor ⋙ F)` and `Grothendieck F`.
+-/
+def preEquivalence (G : D ≌ C) : Grothendieck (G.functor ⋙ F) ≌ Grothendieck F := by
+  refine Equivalence.mk (pre F G.functor) (preInv F G) ?_ ?_
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:464]: We should not use `Equivalance.mk` as it leaves out a compatibility which we should be able to obtain here.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 2]
```diff
@@ -152,6 +162,41 @@ lemma eqToHom_eq {X Y : Grothendieck F} (hF : X = Y) :
...
   subst hF
   rfl
+
+section Transport
+
+/--
+If `F : C ⥤ Cat` is a functor and `t : c ⟶ d` is a morphism in `C`, then `transport` maps each
+`c`-based element of `Grothendieck F` to a `d`-based element.
+-/
+def transport (x : Grothendieck F) {c : C} (t : x.base ⟶ c) : Grothendieck F :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:172]:
```suggestion
@[simps]
def transport (x : Grothendieck F) {c : C} (t : x.base ⟶ c) : Grothendieck F :=
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 3]
```diff
@@ -152,6 +162,41 @@ lemma eqToHom_eq {X Y : Grothendieck F} (hF : X = Y) :
...
+  ⟨c, (F.map t).obj x.fiber⟩
+
+/--
+If `F : C ⥤ Cat` is a functor and `t : c ⟶ d` is a morphism in `C`, then `transport` maps each
+`c`-based element `x` of `Grothendieck F` to a `d`-based element `x.transport t`.
+
+`transport_hom` is the morphism `x ⟶ x.transport t` induced by `t` and the identity on fibers.
+-/
+def transport_hom (x : Grothendieck F) {c : C} (t : x.base ⟶ c) : x ⟶ x.transport t :=
+  ⟨t, CategoryStruct.id _⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:182]:
```suggestion
@[simps]
def toTransport (x : Grothendieck F) {c : C} (t : x.base ⟶ c) : x ⟶ x.transport t :=
  ⟨t, 𝟙 _⟩
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 4]
```diff
@@ -152,6 +162,41 @@ lemma eqToHom_eq {X Y : Grothendieck F} (hF : X = Y) :
...
+@[simps]
+def transportIso (x : Grothendieck F) {c : C} (α : x.base ≅ c) :
+    x.transport α.hom ≅ x := by
+  refine ⟨?_, x.transport_hom α.hom, ?_, ?_⟩
+  · refine ⟨α.inv, eqToHom ?_⟩
+    simp only [transport]
+    rw [← Functor.comp_obj, ← Cat.comp_eq_comp]
+    simp
+  · apply Grothendieck.ext <;> simp [transport_hom]
+  · apply Grothendieck.ext <;> simp [transport_hom]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:197]:
```suggestion
  hom := ⟨α.inv, eqToHom (by
    dsimp
    rw [← Functor.comp_obj, ← Cat.comp_eq_comp, ← F.map_comp, α.hom_inv_id, F.map_id,
      Cat.id_obj])⟩
  inv := x.toTransport α.hom
  hom_inv_id := Grothendieck.ext _ _ (by simp) (by simp)
  inv_hom_id := Grothendieck.ext _ _ (by simp) (by simp)
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 5]
```diff
@@ -369,6 +417,84 @@ def pre (G : D ⥤ C) : Grothendieck (G ⋙ F) ⥤ Grothendieck F where
...
+@[simp]
+theorem pre_id : pre F (𝟭 C) = 𝟭 _ := rfl
+
+/--
+An natural isomorphism between functors `G ≅ H` induces a natural isomorphism between the canonical
+morphism `pre F G` and `pre F H`, up to composition with
+`Grothendieck (G ⋙ F) ⥤ Grothendieck (H ⋙ F)`.
+-/
+def preNatIso {G H : D ⥤ C} (α : G ≅ H) :
+    pre F G ≅ (map (whiskerRight α.hom F)) ⋙ (pre F H) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:429]:
```suggestion
    pre F G ≅ map (whiskerRight α.hom F) ⋙ (pre F H) :=
```

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 6]
```diff
@@ -369,6 +417,84 @@ def pre (G : D ⥤ C) : Grothendieck (G ⋙ F) ⥤ Grothendieck F where
...
+    (fun X => (transportIso ⟨G.obj X.base, X.fiber⟩ (α.app X.base)).symm)
+    (fun f => by fapply Grothendieck.ext <;> simp [transport_hom])
+
+/--
+Given an equivalence of categories `G`, `preInv _ G` is the (weak) inverse of the `pre _ G.functor`.
+-/
+def preInv (G : D ≌ C) : Grothendieck F ⥤ Grothendieck (G.functor ⋙ F) := by
+  refine map ?_ ⋙ Grothendieck.pre (G.functor ⋙ F) G.inverse
+  rw [← Functor.assoc]
+  exact eqToHom (Functor.id_comp F) ≫ (whiskerRight G.counitInv F)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:440]:
```suggestion
def preInv (G : D ≌ C) : Grothendieck F ⥤ Grothendieck (G.functor ⋙ F) :=
  map (F.leftUnitor.inv ≫ whiskerRight G.counitInv F ≫ (Functor.associator _ _ _).hom) ⋙
    Grothendieck.pre (G.functor ⋙ F) G.inverse
```

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 2 above)
Comment (datokrat) [reply Mathlib/CategoryTheory/Grothendieck.lean:180]: I'm unsure whether this would be an improvement. `transport` is not a super-simple definition. If simp unfolds it automatically, expressions might get more complicated quickly.

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 6 above)
Comment (datokrat) [reply Mathlib/CategoryTheory/Grothendieck.lean]: I removed `leftUnitor` and `associator` -- they are just `rfl` and somehow seem to break `preEquivalence`.

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Grothendieck.lean:181]: I suggested `simps`, not `simp`.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 7]
```diff
@@ -369,6 +427,87 @@ def pre (G : D ⥤ C) : Grothendieck (G ⋙ F) ⥤ Grothendieck F where
...
+
+Left-whiskering `α` by `G` and then taking the Grothendieck construction is, up to isomorphism,
+the same as taking the Grothendieck construction of `α` and then conjugating with `pre F G`.
+-/
+def mapWhiskerLeftIsoConjPreMap (G : D ≌ C) (α : F ⟶ F) :
+    map (whiskerLeft G.functor α) ≅
+      (preEquivalence F G).functor ⋙ map α ⋙ (preEquivalence F G).inverse := by
+  apply Iso.symm
+  apply preEquivalence F G |>.congrRight.fullyFaithfulFunctor.preimageIso
+  exact isoWhiskerLeft ((preEquivalence F G).functor ⋙ map α) (preEquivalence F G).counitIso
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:507]:
```suggestion
def mapWhiskerLeftIsoConjPreMap {F' : C ⥤ Cat} (G : D ≌ C) (α : F ⟶ F') :
    map (whiskerLeft G.functor α) ≅
      (preEquivalence F G).functor ⋙ map α ⋙ (preEquivalence F' G).inverse := by
  apply Iso.symm
  apply preEquivalence F' G |>.congrRight.fullyFaithfulFunctor.preimageIso
  exact isoWhiskerLeft ((preEquivalence F G).functor ⋙ map α) (preEquivalence F' G).counitIso
```
(The docstring should also be updated.)

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 8]
```diff
@@ -369,6 +427,87 @@ def pre (G : D ⥤ C) : Grothendieck (G ⋙ F) ⥤ Grothendieck F where
...
+protected def preUnitIso (G : D ≌ C) :
+    map (whiskerRight G.unitInv _) ≅ pre (G.functor ⋙ F) (G.functor ⋙ G.inverse) :=
+  preNatIso _ G.unitIso.symm |>.symm
+
+/--
+Given a functor `F : C ⥤ Cat` and an equivalence of categories `G : D ≌ C`, the functor
+`pre F G.functor` is an equivalence between `Grothendieck (G.functor ⋙ F)` and `Grothendieck F`.
+-/
+def preEquivalence (G : D ≌ C) : Grothendieck (G.functor ⋙ F) ≌ Grothendieck F := by
+  refine ⟨(pre F G.functor), (preInv F G), ?_, ?_, ?_⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:472]:
```suggestion
def preEquivalence (G : D ≌ C) : Grothendieck (G.functor ⋙ F) ≌ Grothendieck F where
  functor := pre F G.functor
  inverse := preInv F G
```
Also, the unit and counit isos should not be constructed using tactics. This would create issues when we want to unfold these definitions.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 9]
```diff
@@ -148,10 +158,55 @@ theorem congr {X Y : Grothendieck F} {f g : X ⟶ Y} (h : f = g) :
...
+@[simps]
+def toTransport (x : Grothendieck F) {c : C} (t : x.base ⟶ c) : x ⟶ x.transport t :=
+  ⟨t, 𝟙 _⟩
+
+/--
+If `F : C ⥤ Cat` and `x : Grothendieck F`, then every `C`-isomorphism `α : x.base ≅ c` induces
+an isomorphism between `x` and its transport along `α`
+-/
+@[simps]
+def transportIso (x : Grothendieck F) {c : C} (α : x.base ≅ c) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:199]: I would think that the following definition could be useful:
```lean
@[simps]
def isoMk {X Y : Grothendieck F} (e₁ : X.base ≅ Y.base)
    (e₂ : (F.map e₁.hom).obj X.fiber ≅ Y.fiber) :
    X ≅ Y where
  hom := ⟨e₁.hom, e₂.hom⟩
  inv := ⟨e₁.inv, (F.map e₁.inv).map e₂.inv ≫
    eqToHom (Functor.congr_obj (F.mapIso e₁).hom_inv_id X.fiber)⟩
  hom_inv_id := Grothendieck.ext _ _ (by simp) (by simp)
  inv_hom_id := Grothendieck.ext _ _ (by simp) (by
    have := Functor.congr_hom (F.mapIso e₁).inv_hom_id e₂.inv
    dsimp at this
    simp [this])
```
Indeed, `transportIso` becomes:
```lean
@[simps!]
def transportIso (x : Grothendieck F) {c : C} (α : x.base ≅ c) :
    x.transport α.hom ≅ x :=
  (isoMk α (Iso.refl _)).symm
```

File: Mathlib/CategoryTheory/Grothendieck.lean (hunk 8 above)
Comment (datokrat) [reply Mathlib/CategoryTheory/Grothendieck.lean]: Now the construction of `unitIso` begins with a `refine` tactic and its only hole is propositional (`eqToIso ?_`). I find it more readable this way, compared to directly filling the hole.

As far as I know, using `refine` should be okay as it just helps me build an expression in multiple steps. Is it fine this way or should I really use term mode here?

Comment (joelriou) [reply Mathlib/CategoryTheory/Grothendieck.lean]: Yes, `refine` is very much ok, especially when the holes are props. I will have a closer look at the PR in the next few days.

File: Mathlib/CategoryTheory/Grothendieck.lean [hunk 10]
```diff
@@ -369,6 +436,95 @@ def pre (G : D ⥤ C) : Grothendieck (G ⋙ F) ⥤ Grothendieck F where
...
+```
+Grothendieck (G.functor ⋙ F) ≌ Grothendieck F ⥤ Grothendieck F' ≌ Grothendieck (G.functor ⋙ F')
+```
+-/
+def mapWhiskerLeftIsoConjPreMap {F' : C ⥤ Cat} (G : D ≌ C) (α : F ⟶ F') :
+    map (whiskerLeft G.functor α) ≅
+      (preEquivalence F G).functor ⋙ map α ⋙ (preEquivalence F' G).inverse := by
+  apply Iso.symm
+  apply preEquivalence F' G |>.congrRight.fullyFaithfulFunctor.preimageIso
+  exact isoWhiskerLeft ((preEquivalence F G).functor ⋙ map α) (preEquivalence F' G).counitIso
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Grothendieck.lean:524]:
```suggestion
      (preEquivalence F G).functor ⋙ map α ⋙ (preEquivalence F' G).inverse :=
  (Functor.rightUnitor _).symm ≪≫ isoWhiskerLeft _ (preEquivalence F' G).unitIso
```

**Comment by joelriou** [comment]
Thanks!

bors merge
